US05807860
Imidazole (1.11 g, 16.3 mmol), potassium carbonate (2.78 g, 20.1 mmol), cuprous chloride (0.31 g, 3.1 mmol), and N-methylpyrrolidone (25 ml) were added to N-pentyl-(5-bromo-2,3-methylenedioxyphenyl)acetamide (4.65 g, 14.8 mmol), and the mixture was stirred at 200° C. for 10 hours. The reaction mixture was cooled and added with ethyl acetate (30 ml) and the precipitates were removed by filtration. The ethyl acetate layer was successively washed with 10% aqueous ammonia and with saturated brine, and dried over anhydrous sodium sulfate, and then the solvent was evaporated. The residue was purified by silica gel chromatography (Wako Gell C-300: 100 g, eluent: methanol/chloroform=1/50-1/20) to give N-pentyl-(5-imidazolyl-2,3-methylenedioxyphenyl)acetamide (2.13 g) as an oil.

reactant | Imidazole | 16.3 mmol, 1.11 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 20.1 mmol, 2.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 25 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-pentyl-(5-bromo-2,3-methylenedioxyphenyl)acetamide | 14.8 mmol, 4.65 g | C(CCCC)NC(CC1=C2C(=CC(=C1)Br)OCO2)=O | C14H18BrNO3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-pentyl-(5-imidazolyl-2,3-methylenedioxyphenyl)acetamide | 2.13 g | C(CCCC)NC(CC1=C2C(=CC(=C1)C=1NC=CN1)OCO2)=O | C17H21N3O3
